US06534522B2
A) Phenyl N-acetylisonipecotate
To a suspension of N-acetylisonipecotoyl chloride (3.70 g, 19.50 mmol) in THF (60 mL) were added phenol (2.70 g, 27 mmol) and Et3N (5.0 mL, 36 mmol). The resulting heterogeneous mixture was stirred at 25° C. for 20 h, diluted with EtOAc (50 mL) and was washed with a saturated solution of NH4Cl (50 mL). The crude compound was purified by filtration on silica gel using EtOAc/n-hexane as eluant to afford the title compound as a colorless solid (3.45 g, 80%): mp 96-98 C; 1H NMR (CDCl3) d 1.60-1.95 (m, 2H), 2.00-2.2 (m, 5H), 2.70-3.00 (m, 2H), 3.10-3.30 (m, 1H), 3.75-3.90 (m, 1H), 4.40-4.60 (m, 1H), 7.06 (d, J=7.5 Hz, 2H), 7.22 (d, J=7.5 Hz, 1H), 7.38 (t, J=7.5 Hz, 2H).

reactant | N-acetylisonipecotoyl chloride | 19.50 mmol, 3.70 g | C(C)(=O)N1CCC(C(=O)Cl)CC1 | C8H12ClNO2
reactant | phenol | 27 mmol, 2.70 g | C1(=CC=CC=C1)O | C6H6O
reactant | Et3N | 36 mmol, 5.0 mL | CCN(CC)CC | C6H15N
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | Phenyl N-acetylisonipecotate | 3.45 g, 80% | C(C)(=O)N1CCC(C(=O)OC2=CC=CC=C2)CC1 | C14H17NO3
